US07919498B2
A mixture of 1-(2-chlorophenyl)propane-1,2-dione (4.2379 g, 23.208 mmol), bromine (1.1891 mL, 23.208 mmol), and glacial acetic acid (0.67005 mL, 11.604 mmol) in chloroform (58.020 mL, 23.208 mmol) was heated at 60° C. After 17 h of stirring at 60° C., the mixture was removed from heat and concentrated under reduced pressure to give 3-bromo-1-(2-chlorophenyl)propane-1,2-dione as an orange liquid: LC-MS: a peak of m/z 261.0 [M+H(79Br)]+ and 262.9 [M+H (81Br)−]+. The orange liquid was carried on crude without purification for the next step.

reactant | 1-(2-chlorophenyl)propane-1,2-dione | 23.208 mmol, 4.2379 g | ClC1=C(C=CC=C1)C(C(C)=O)=O | C9H7ClO2
reactant | bromine | 23.208 mmol, 1.1891 mL | BrBr | Br2
reactant | acetic acid | 11.604 mmol, 0.67005 mL | C(C)(=O)O | C2H4O2
reactant | chloroform | 23.208 mmol, 58.020 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-1-(2-chlorophenyl)propane-1,2-dione | BrCC(C(=O)C1=C(C=CC=C1)Cl)=O | C9H6BrClO2
